US06200988B1
1.26 (3H, t, J=7.1 Hz, CH2 CH3), 1.60˜2.20 (2H, m, —CH2 CH2 CO2—), 2.00·2.20 (2H, m, —CH2 CH2 CO2—), 2.23 (3H, s, >NCOCH3), 2.44, 2.47 (6H, s×2, —CH3x2), 3.10·3.60 (1H, m, Indoline C3—H), 4.00 (2H, m, Indoline C2—H), 4.10 (2H, q, J=7.1 Hz, —CH2 CH3). (8) 1-Acetyl-5-bromo-3-(2-ethoxycarbonylethyl)-4,6-dimethyl-7-nitro-indoline (2.7 g) was dissolved in benzene (100 ml), and 5% Pd—C. (500 mg) was added, which was followed by catalytic hydrogenation at room temperature under atmospheric pressure. Pd—C. was filtered off and benzene was evaporated under reduced pressure. CHCl3 (100 ml) was added to the residue, and the mixture was washed successively with saturated aqueous solution of sodium hydrogencarbonate and saturated brine and dried over anhydrous sodium sulfate. CHCl3 was evaporated under reduced pressure. The residue was dissolved in CHCl3 (20 ml) and pivaloyl chloride (790 mg) and Et3N (80 mg) were added, which was followed by stirring at room temperature for 30 min. CHCl3 (100 ml) was added, and the mixture was washed successively with 5% aqueous citric acid and saturated brine and dried over anhydrous sodium sulfate. CHCl3 was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: CHCl3/MeOH=50/1−10/1) to give 2.6 g of N-[1-acetyl-3-(2-ethoxycarbonylethyl)-4,6-dimethylindolin-7-yl]-2,2-dimethylpropanamide.

reactant | NCOCH3 | C(#N)OC | C2H3NO
reactant | Indoline | N1CCC2=CC=CC=C12 | C8H9N
reactant | 1-Acetyl-5-bromo-3-(2-ethoxycarbonylethyl)-4,6-dimethyl-7-nitro-indoline | 2.7 g | C(C)(=O)N1CC(C2=C(C(=C(C(=C12)[N+](=O)[O-])C)Br)C)CCC(=O)OCC | C17H21BrN2O5
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
catalyst | Pd—C | [Pd] | Pd
product | N-[1-acetyl-3-(2-ethoxycarbonylethyl)-4,6-dimethylindolin-7-yl]-2,2-dimethylpropanamide | 2.6 g | C(C)(=O)N1CC(C2=C(C=C(C(=C12)NC(C(C)(C)C)=O)C)C)CCC(=O)OCC | C22H32N2O4
